US05290477
A mixture of 8.42 g of 5-methoxy-2-(4-benzyloxyphenyl)pyrimidine, 6.9 g of sodium hydroxide, and 84 ml of diethylene glycol was heated at 190° to 200° C. for 2 hours. After cooling, the reaction mixture was poured into 300 ml of water, neutralized with a 1% hydrochloric acid aqueous solution, and extracted with ethyl acetate. Distillation of the extract to remove ethyl acetate gave 7.3 g (26.2 mmol; percent yield: 91.8%) of 5-hydroxy-2-(4-benzyloxyphenyl)pyrimidine.

reactant | 5-methoxy-2-(4-benzyloxyphenyl)pyrimidine | 8.42 g | COC=1C=NC(=NC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H16N2O2
reactant | sodium hydroxide | 6.9 g | [OH-].[Na+]
reactant | diethylene glycol | 84 ml | C(COCCO)O | C4H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 5-hydroxy-2-(4-benzyloxyphenyl)pyrimidine | 26.2 mmol, 7.3 g, yield: 91.8% | OC=1C=NC(=NC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H14N2O2
